US07332501B2
b) 6-Chloro-2-methyl-1H-indole
A solution of 1.60 g (8.81 mmol) (6-chloro-1H-indol-2-yl)-methanol in 5 ml 1,2-dichloroethane was added to a mixture of 80.0 ml trifluoroacetic acid and 32.0 ml triethylsilane at 65° C. After 5 min, the reaction mixture was cooled to room temperature and quenched with water. The pH was adjusted to 14 by the addition of aqueous sodium hydroxide solution (32%). The aqueous layer was extracted with tert-butyl methyl ether (3×200 ml). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash-chromatography (aminopropyl-modified silica gel, n-heptane/ethyl acetate) to give the title compound (0.39 g; 27%) as a white solid.

reactant | (6-chloro-1H-indol-2-yl)-methanol | 8.81 mmol, 1.60 g | ClC1=CC=C2C=C(NC2=C1)CO | C9H8ClNO
reactant | trifluoroacetic acid | 80.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 32.0 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 6-Chloro-2-methyl-1H-indole | 0.39 g, 27% | ClC1=CC=C2C=C(NC2=C1)C | C9H8ClN
